US04298529
70% Perchloric acid (0.75 ml), 7-(2-methoxyimino-3,3-diethoxy-4-chlorobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 1.82 g) and methyl isobutyl ketone (7.3 ml) were treated in a similar manner to that of Example 47 to give 7-(2-methoxyimino-3-oxo-4-chlorobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 0.98 g).

reactant | Perchloric acid | 0.75 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | 7-(2-methoxyimino-3,3-diethoxy-4-chlorobutyramido)-3-cephem-4-carboxylic acid | 1.82 g | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(CCl)(OCC)OCC | C16H22ClN3O7S
solvent | methyl isobutyl ketone | 7.3 ml | C(C(C)C)C(=O)C | C6H12O
product | 7-(2-methoxyimino-3-oxo-4-chlorobutyramido)-3-cephem-4-carboxylic acid | 0.98 g | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(CCl)=O | C12H12ClN3O6S
